US07232821B2
3-{2-[5-Trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-acetamidobenzoic acid ethyl ester
Prepared by general procedure E but using acetyl chloride instead of propionyl chloride and 3-{2[5-trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-aminobenzoic acid ethyl ester instead of 5-[2-(2-benzyloxy-5-chlorophenyl)cyclopent-1-enyl]-2-aminobenzoic acid methyl ester.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 3-{2[5-trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-aminobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1N)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C28H26F3NO3
product | 3-{2-[5-Trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-acetamidobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1NC(C)=O)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C30H28F3NO4
